US06673457B2
Thereafter, 0.44 part of a 0.5% toluene solution of the platinum catalyst (supra) was added to the reaction mixture which was heated up to a temperature of 60° C. where the reaction mixture was admixed dropwise with a mixture of 14.7 parts of the Intermediate 1 obtained in Synthesis Example 3, 19.5 parts of 4-vinylcyclohexene oxide and 1.02 parts of isopropyl alcohol over a period of 1.5 hours during which the temperature of the reaction mixture was gradually increased to 65° C. After completion of the dropwise addition of the mixture, the reaction mixture in the flask was continuously agitated for further 6 hours at 65° C. and then admixed with 0.03 part of triphenyl phosphine to terminate the reaction followed by stripping of toluene and other volatile matters at 80° C. under a pressure of 5 Torr to obtain a light brown, cloudy liquid as the product, referred to as the Product 3 hereinafter, having a viscosity of 276 MPa·s and an epoxy equivalent of 1630.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
catalyst | platinum | [Pt] | Pt
product | 4-vinylcyclohexene oxide | C(=C)C1CC2C(CC1)O2 | C8H12O
